US08492582B2
Thiomorpholine (0.14 mL), cesium carbonate (0.58 g), tris(dibenzylideneacetone)dipalladium(0) (8.2 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (21 mg), and palladium(II) acetate (4.0 mg) were added to a toluene (5.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate (0.50 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then thiomorpholine (0.045 mL), cesium carbonate (0.15 g), tris(dibenzylideneacetone)dipalladium(0) (8.2 mg), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (21 mg), and palladium(II) acetate (4.0 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 3 hours. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a 10% aqueous solution of citric acid and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-80% hexane/ethyl acetate] to obtain 0.36 g of tert-butyl 2-(2-(benzyloxy)-5-(thiomorpholin-4-yl)benzamido)-4-phenylbenzoate as a yellow solid.

reactant | Thiomorpholine | 0.14 mL | N1CCSCC1 | C4H9NS
reactant | cesium carbonate | 0.58 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butyl 2-(2-(benzyloxy)-5-bromobenzamido)-4-phenylbenzoate | 0.50 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)Br | C31H28BrNO4
reactant | thiomorpholine | 0.045 mL | N1CCSCC1 | C4H9NS
reactant | cesium carbonate | 0.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 4.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 8.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium(II) acetate | 4.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 21 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 21 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-(2-(benzyloxy)-5-(thiomorpholin-4-yl)benzamido)-4-phenylbenzoate | 0.36 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)N1CCSCC1 | C35H36N2O4S
